US07592373B2
4.279.b. 4-[2-(cyclopropylmethylpropylamino)ethoxy]-3-methoxyphenylamine
Prepared analogously to Example 3.1.b. from 950 mg (3.1 mmol) of cyclopropylmethyl-[2-(2-methoxy-4-nitrophenoxy)ethyl]propylamine. Yield: 0.74 g (86% of theory); C16H26N2O2 (M=278.39); calc.: molecular ion peak (M+H)+: 279; found: molecular ion peak (M+H)+: 279; Rf value: 0.4 (silica gel, dichloromethane/methanol/ammonia (9:1:0.1)).

reactant | cyclopropylmethyl-[2-(2-methoxy-4-nitrophenoxy)ethyl]propylamine | 3.1 mmol, 950 mg | C1(CC1)CN(CCC)CCOC1=C(C=C(C=C1)[N+](=O)[O-])OC | C16H24N2O4
reactant | dichloromethane methanol ammonia | ClCCl.CO.N
product | 4-[2-(cyclopropylmethylpropylamino)ethoxy]-3-methoxyphenylamine | C1(CC1)CN(CCOC1=C(C=C(C=C1)N)OC)CCC | C16H26N2O2
